* source CATENAAPERTA
I_I1         N23066 0 DC 0.05Adc  
R_R1         N23054 N23010  1k TC=0,0 
V_V1         N23010 0 25
X_M2         N23054 0 N23066 2N7000/FAI
X_M1         N23060 N23152 N23066 2N7000/FAI
R_R2         N23060 N23010  1k TC=0,0 
V_V2         N23152 0  
+SIN 0 1m 30kHz 0 0 0
R_R7         N23813 N23765  900 TC=0,0 
R_R6         0 N23961  50 TC=0,0 
R_R5         0 N23739  565 TC=0,0 
C_C2         N23054 N23813  1  TC=0,0 
I_I2         N23765 N23739 DC 0.2Adc  
X_M5         N23739 N23813 N23961 BSS123/FAI
R_R8         0 N23813  100 TC=0,0 
V_V5         N23765 0 80
