* source COPPIA
V_V8         N17682 0  
+SIN 3 200u 20kHz 0 0 0
R_R10         N18942 N17606  1000 TC=0,0 
V_V7         N17606 0 80
R_R9         N18914 N17606  1000 TC=0,0 
I_I3         N17594 0 DC 0.2  
X_M6         N18942 N17682 N17594 2N7000/FAI
X_M8         N18914 0 N17594 2N7000/FAI
