* source COPPIACARICOATTIVO
I_I4         N20389 N20223 DC 20uAdc  
V_V9         N20389 0 80Vdc
X_M9         N20223 N20321 N20257 NDT014/FAI
X_M10         N20223 0 N20265 NDT014/FAI
V_V10         N20321 0  
+SIN 0 1m 20kHz 0 0 0
X_M11         N20265 N20257 0 2N7000/FAI
