* source STADIO 3_CASO A 
I_I1         N00276 0 DC 3.8Adc  
V_V3         N09676 0 33Vdc
V_V2         N00336 0 28
V_V4         N09730 0 40Vdc
C_C1         N00276 N10701  2u  TC=0,0 
M_M3         N00336 N10127 N00276 N00276 IRFP250
M_M2         N09730 N09676 N09706 N09706 IRFP250
V_V5         N10127 0  
+SIN 0 31 20k 0 0 0
R_R_L         0 N10701  8 TC=0,0 
R_Rs1         0 N09706  7 TC=0,0 
