* source COMMONSOURCE
V_V5         N11644 0 80
R_R5         0 N11634  565 TC=0,0 
V_V6         N11522 0  
+SIN 20 0.3 30k 0 0 0
X_M5         N11654 N11522 N19535 BSS123/FAI
R_R6         N11654 N11644  3k TC=0,0 
I_I2         N19535 0 DC 0.03Adc  
C_C1         N11654 N11634  1  TC=0,0 
